US06258812B1
Preparation of 82E=3-(3-methylanilino)-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine (Rx=meta-methyl):
The compound is prepared starting from 0.070 g 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine and 0.129 g meta-methylaniline in the manner described in Example 82A. After heating for 20 h to 130° C., siginificant quantities of 3-chloro-4,5-dimethyl-6 (pyridin-4-yl)methylpyridazine are still present (TLC). For this reason, a further 0.129 g meta-methylaniline is added and heated for another 24 h to 1 30° C. Processing is in the manner described for Example 82A. Title compound of about 90% purity is obtained after FC in CH2Cl2/methanol 19/1; m.p. 68-90%°. 1H-NMR (250 MHz, CDCl3): δ=8.45 (d, 2H); 7.70 (t, 1H); 7.50 (s, 1H); 7.40-7.10 (m, 4H)); 6.90 (d, 1H); 6.15 (s, wide, 1H); 4.30 (s, 2H); 2.35 (s, 3H); 2.15 (s, 3H); 2.10 (s, 3H). ES-MS 305 (M+H).

reactant | 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine | 0.070 g | ClC=1N=NC(=C(C1C)C)CC1=CC=NC=C1 | C12H12ClN3
reactant | meta-methylaniline | 0.129 g | CC=1C=C(N)C=CC1 | C7H9N
reactant | meta-methylaniline | 0.129 g | CC=1C=C(N)C=CC1 | C7H9N
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | 3-(3-methylanilino)-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine | CC=1C=C(NC=2N=NC(=C(C2C)C)CC2=CC=NC=C2)C=CC1 | C19H20N4
